### ISSUE TITLE
RFC: `List` lemmas for `tail`/`dropLast` applied to `take`/`drop`

### ISSUE THREAD

**Issue by SnirBroshi** [leanprover/lean4#12910]
### Proposal

I propose adding these lemmas:
```lean
theorem tail_take (l : List α) (i : Nat) : (l.take i).tail = l.tail.take (i - 1) := by
  simp [← drop_one, drop_take]

theorem dropLast_take' (l : List α) (i : Nat) :
    (l.take i).dropLast = l.dropLast.take (i - 1) := by
  simp [dropLast_eq_take, take_take, Nat.sub_min_sub_right,
    Nat.le_trans (sub_le ..) (Nat.min_le_left ..)]

theorem tail_drop' (l : List α) (i : Nat) : (l.drop i).tail = l.tail.drop i := by
  simp

theorem dropLast_drop (l : List α) (i : Nat) : (l.drop i).dropLast = l.dropLast.drop i := by
  simp [dropLast_eq_take, Nat.sub_right_comm, drop_take]
```

### Community Feedback

[#Is there code for X? > List.tail/List.dropLast + List.take](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/List.2Etail.2FList.2EdropLast.20.2B.20List.2Etake/with/572294698)
(Kim supported adding these to core)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
